US06002008
4-[(3-Cyanophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 5.00 g (21.5 mmol) 4-chloro-6-nitro-3-quinolinecarbonitrile, 200 ml ethanol, and 3.04 g (25.8 mmol) 3-aminobenzonitrile was heated to reflux. Removed heat at 3.5 hours and made basic with saturated sodium bicarbonate. Stripped solvents and air dried. Slurried residue with hexane and collected solids. Washed with water and dried in vacuo. Boiled in large volume ethyl acetate, collected solids and dried in vacuo, giving 5.15 g of yellow-brown solid: mass spectrum (electrospray m/e): 316.0.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 21.5 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3-aminobenzonitrile | 25.8 mmol, 3.04 g | NC=1C=C(C#N)C=CC1 | C7H6N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-[(3-Cyanophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 5.15 g | C(#N)C=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C17H9N5O2
